US04977166
4-(3,4-Dimethoxyphenylmethyl)piperidine is prepared by hydrogenation at 20° C., under two atmospheres, in the presence of palladium hydroxide (0.042 g), of 4-(3,4-dimethoxybenzylidene)-1-phenylmethylpiperidine (0.42 g) in methanol (100 cc), to which a 5N solution of hydrochloric acid in isopropanol (0.26 cc) has been added. After filtration and evaporation of the solvent under reduced pressure, 4-(3,4-dimethoxyphenylmethyl)-piperidine (0.3 g) is isolated in the form of a white solid whose melting point is 76° C.

reactant | 4-(3,4-dimethoxybenzylidene)-1-phenylmethylpiperidine | 0.42 g | COC=1C=C(C=C2CCN(CC2)CC2=CC=CC=C2)C=CC1OC | C21H25NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 cc | CO | CH4O
solvent | isopropanol | 0.26 cc | C(C)(C)O | C3H8O
catalyst | palladium hydroxide | 0.042 g | [OH-].[Pd+2].[OH-]
product | 4-(3,4-dimethoxyphenylmethyl)-piperidine | 0.3 g | COC=1C=C(C=CC1OC)CC1CCNCC1 | C14H21NO2
